US06107329
4-{2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionyl}-piperazine-1-carboxylic acid tert-butyl ester
1-Piperazinecarboxylic acid t-butyl ester (1.2 mmol) and 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid (0.6 mmol) were coupled according to procedure A (0-25° C. reaction temperature, reaction time 4 days, extraction with acid first, then base), and the crude product purified by column chromatography on silica gel eluted with 30% ethyl acetate in hexanes to give a colorless foam: Yield 290 mg, 95%; HPLC (70/30) 6.23 min (99%); PBMS 512/514 (MH+, 100%);

reactant | 1-Piperazinecarboxylic acid t-butyl ester | 1.2 mmol | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 2-[(5-chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionic acid | 0.6 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)NC(C(=O)O)CC1=CC=CC=C1 | C18H15ClN2O3
product | 4-{2-[(5-Chloro-1H-indole-2-carbonyl)-amino]-3-phenyl-propionyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(CC1=CC=CC=C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)=O | C27H31ClN4O4
